US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-(6-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (100 mg) was reacted with 2-(4-morpholino)pyridine-5-boronic acid pinacol ester as in General Procedure 4A to give the title compound as a beige foam (52% yield). M.p. (foam), LCMS: m/z=458.04 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.28-3.34 (m, 2H), 3.51-3.59 (m, 6H), 3.81-3.88 (m, 4H), 4.54 (s, 2H), 5.30 (s, 1H), 6.69 (d, J=8.8 Hz, 1H), 7.00-7.08 (m, 2H), 7.11-7.18 (m, 1H), 7.53 (s, 1H), 7.61 (dd, J=8.8 Hz, 2.5 Hz, 1H), 8.33 (s, J=2.2 Hz, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 100 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 2-(4-morpholino)pyridine-5-boronic acid pinacol ester | B1(OC(C(O1)(C)C)(C)C)C2=CN=C(C=C2)N3CCOCC3 | C15H23BN2O3
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-(6-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 52% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCOCC3)C(=CC=C1F)F | C23H22ClF2N5O
